US04778822
To a mixture of 2-chloro-6-fluoro-3-nitrotoluene (140 g), isopropanol (560 ml) and water (147 ml), hydrogen reduced iron (172.2 g) was added hydrochloric acid (43 drops) and with vigorous stirring the whole heated to reflux temperature (82° C.) for 4 hours. The cooled mixture was then filtered and the filtrate evaporated under reduced pressure giving an oil which on distillation gave 2-chloro-4-fluoro-3-methylaniline (72 g).

reactant | 2-chloro-6-fluoro-3-nitrotoluene | 140 g | ClC1=C(C(=CC=C1[N+](=O)[O-])F)C | C7H5ClFNO2
reactant | isopropanol | 560 ml | C(C)(C)O | C3H8O
catalyst | hydrochloric acid | 43 drops | Cl | ClH
solvent | water | 147 ml | O | H2O
product | 2-chloro-4-fluoro-3-methylaniline | 72 g | ClC1=C(N)C=CC(=C1C)F | C7H7ClFN
